US06025444
Synthesis of Cinnamoyl-6-aminocaproic Acid [compound (2-4), k=5, R1b =H]
Using 6-aminocaproic acid in lieu of γ-aminobutyric acid, the title compound was synthesized following essentially the procedure described in Example 14. Yield 77%, m.p. 91.6-92.3° C.

reactant | 6-aminocaproic acid | NCCCCCC(=O)O | C6H13NO2
reactant | γ-aminobutyric acid | NCCCC(=O)O | C4H9NO2
product | Cinnamoyl-6-aminocaproic Acid | Yield 77% | C(C=CC1=CC=CC=C1)(=O)C(C(=O)O)CCCCN | C15H19NO3
